US05231113
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate
Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)-3-methylbenzoate-Using ethyl 4-hydroxy-3-methylbenzoate, the title compound was synthesized as a white solid. PMR (CDCl3): δ 1.34 (6H, s), 1.36 (6H, s), 1.41 (3H, t, J~7.2 Hz), 1.74 (4H, s), 2.30 (3H, s), 4.39 (2H, t, J~7.2 Hz), 7.22 (1H, d, J~8.4 Hz), 7.47 (1H, d, J~8.3 Hz), 7.94-8.04 (3H, m), 8.19 (1H, d, J~1.7 Hz).

reactant | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)-3-methylbenzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=C(C=C(C(=O)OCC)C=C1)C)C | C25H30O4
reactant | ethyl 4-hydroxy-3-methylbenzoate | OC1=C(C=C(C(=O)OCC)C=C1)C | C10H12O3
product | Ethyl 4-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-2-naphthoyloxy)benzoate | CC1(C=2C=CC(=CC2C(CC1)(C)C)C(=O)OC1=CC=C(C(=O)OCC)C=C1)C | C24H28O4
